US04221725
A solution of 3-(4-hydroxyphenyl)glutaric acid (800 mg) in acetic anhydride (15 ml) is heated at 100° C. for 2.5 hours and evaporated to dryness in vacuo. The residual solid is crystallized from chloroform-hexane to afford 600 mg of 3-(4-acetyloxyphenyl)glutaric anhydride, melting point 140°-143° C.

reactant | 3-(4-hydroxyphenyl)glutaric acid | 800 mg | OC1=CC=C(C=C1)C(CC(=O)O)CC(=O)O | C11H12O5
reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(4-acetyloxyphenyl)glutaric anhydride | 600 mg | C(C)(=O)OC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C13H12O5
